US07625932B2
Preparation of 3-(4-benzylamino-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add 3-(4-amino-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.297 g, 1.0 mmol, prepared in example E-153), benzaldehyde (0.106 g, 1.0 mmol), and one drop of acetic acid in methanol with stirring at room temperature. After 4 hours, add sodium borohydride (0.075 g, 2.0 mmol) portionwise and continue stirring at room temperature. After 18 hours, pour the reaction mixture into water and extract with EtOAc. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (m/e): 388.1 (M+1).

reactant | 3-(4-amino-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.0 mmol, 0.297 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)N)C#N)CC)C | C17H19N3O2
reactant | benzaldehyde | 1.0 mmol, 0.106 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 2.0 mmol, 0.075 g | [BH4-].[Na+]
reactant | water | O | H2O
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 3-(4-benzylamino-phenyl)-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)NCC1=CC=CC=C1)C#N)CC)C | C24H25N3O2
